US06645953B2
A mixture of (25R)-26-(tert-butyldimethylsilyloxy)cholest-5-en-3β-ol (7.4g, 14.3mmol) and 1-methylpiperidone (55 mL) in toluene (550 mL) was heated to reflux temperature and 100ml toluene was distilled off. Aluminium triisopropyl oxide (15 g, 1377 mmol) was then added portionwise over 10 minutes and the whole heated at refux for 4 hours. After cooling, water (300 mL) was added and the aqueous layer separated and extracted with diethyl ether (5×100 mL). The combined organic layers were washed with water (2×60 mL), dried over magnesium sulphate and concentrated to give residue which was purified by flash chromatography to give 6.26 g (25R)-26-(tert-Butyldimethylsilyloxy)-cholest-4-en-3-one (6.26 g).

reactant | (25R)-26-(tert-butyldimethylsilyloxy)cholest-5-en-3β-ol | 14.3mmol, 7.4g | [Si](C)(C)(C(C)(C)C)OC[C@H](C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@H](CC[C@]4(C)[C@H]3CC[C@]12C)O | C33H60O2Si
reactant | 1-methylpiperidone | 55 mL | CN1C(CCCC1)=O | C6H11NO
reactant | water | 300 mL | O | H2O
solvent | toluene | 550 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100ml | C1(=CC=CC=C1)C | C7H8
product | (25R)-26-(tert-Butyldimethylsilyloxy)-cholest-4-en-3-one | 6.26 g | [Si](C)(C)(C(C)(C)C)OC[C@H](C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)[C@H]3CC[C@]12C)=O | C33H58O2Si
